US04182757
3.4 g of 1-(2-chloroethyl)-3-isobutyl-3-D-glucopyranosylurea are dissoved in a mixture of 70 ml of tetrahydrofuran and 70 ml of methylene chloride, and 15 g of sodium carbonate anhydrate are added thereto. 5 g of nitrogen tetroxide gas are introduced into the mixture for 10 minutes under stirring and ice-cooling. The mixture is treated in the same manner as described in Example 2. 2.8 g of 1-(2-chloroethyl)-1-nitroso-3-isobutyl-3-D-glucopyranosylurea are thereby obtained as yellow caramel.

reactant | 1-(2-chloroethyl)-3-isobutyl-3-D-glucopyranosylurea | 3.4 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC(C)C | C13H25ClN2O6
reactant | sodium carbonate | 15 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | nitrogen tetroxide | 5 g | [N+](=O)([N+](=O)[O-])[O-] | N2O4
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-chloroethyl)-1-nitroso-3-isobutyl-3-D-glucopyranosylurea | 2.8 g | ClCCN(C(=O)N(C1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC(C)C)N=O | C13H24ClN3O7
